US08633173B2
A suspension of 1-(3-nitro-phenyl)-piperazine hydrochloride (1.0 g, 4.1 mmol) and potassium carbonate (0.62 g, 4.5 mmol) in acetonitrile (10 mL) at room temperature was added di-tert-butyldicarbonate (1.0 g, 4.6 mmol) and was stirred at room temperature for 3 days. The mixture was poured into water (50 mL) and extracted with dichloromethane (3×50 mL). The combined organic layers were washed with water (50 mL) and saturated aqueous sodium chloride (50 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated under reduced pressure. 4-(3-Nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester was isolated as a yellow solid (1.169 g, 93%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.72 (s, 1H), 7.69 (d, J=8.0 Hz, 1H), 7.39 (t, J=8.2 Hz, 1H), 7.19 (dd, J=8.2, 1.7 Hz, 1H), 3.63-3.58 (m, 4H), 3.27-3.21 (m, 4H), 1.49 (s, 9H). MS=330 (M+Na)+.

reactant | 1-(3-nitro-phenyl)-piperazine hydrochloride | 4.1 mmol, 1.0 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)N1CCNCC1
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyldicarbonate | 4.6 mmol, 1.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 50 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(3-Nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C15H21N3O4
